Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14].[H:10]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-2.25953360254
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:10].[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],4.53981567859
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9]>>[H:1].[O:2]=[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],2.09547723939
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])([H:13])[H:14],4.54846427279
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[O:10][H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8][O:10][H:11].[H:9],2.69997750958
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2],5.22873244068
[C:1]/[C:2]([H:3])=[C:4](\[H:5])[O:6][C:7]#[C:8]>>[C:1].[C:2]([H:3])=[C:4]([H:5])[O:6][C:7]#[C:8],5.25732114901
[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.5701570059300005
[C:4]([H:5])#[C:6][O:7][H:8].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[O:7][H:8],-1.93129509224
[C:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9]>>[C:1](#[C:2]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9])[H:3],-2.0619716833900004
[C:1]#[C:2][C:3]([H:4])([H:5])[H:6].[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-3.41246206819
[O:1][C:2]#[C:3][C:4]#[C:5][O:6][H:7]>>[C:3]#[C:4][C:5][O:6][H:7].[O:1]=[C:2],2.7252690862299995
[C:1]=[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8].[C:9]([H:10])([H:11])[H:12],3.01644401514
[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-5.15534800642
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])[H:9]>>[H:3].[O:1]=[C:2]=[C:4]([H:5])[O:6][C:7]([H:8])[H:9],3.2258970290599995
[O:1]=[C:2]=[C:3]([O:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])[H:7],3.30870732672
[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][O:4][C:5]([H:6])[O:7][H:8]>>[H:1][C:2]#[C:3][O:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-4.12073488115
[H:1][C:2]([H:3])[O:4]/[C:5](=[C:6](/[H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][C:2]([H:3])[O:4][C:5][C:11]([H:12])([H:13])[H:14],4.78997384449
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:10].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([C:7]([H:8])[H:9])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],4.5847055248
[H:4].[O:1]=[C:2]([H:3])[O:5][C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1][C:2]([H:3])([H:4])[O:5][C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12],-0.510965439305
[C:2][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10].[H:1][C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],-10.5842763484
[C:5]([H:6])([H:7])[H:8].[H:1][C:2]([H:3])=[C:4][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.4599101396
[H:1][C:2]([C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:2]([C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])=[C:14]([H:15])[H:16].[H:1][C:4]([C:3][H:17])([H:5])[H:6],5.776955007740001
[C:1]#[C:2].[C:3]([H:4])([O:5][H:6])[C:7](=[O:8])[H:9]>>[C:1]#[C:2][C@@:3]([H:4])([O:5][H:6])[C:7](=[O:8])[H:9],-4.14722692768
[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:7]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-1.89202945226
[C:10]([H:11])[H:12].[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])([H:8])[H:9]>>[H:1][O:2][C:3]([C:4][O:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12],-5.04771660458
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[O:8][H:9]>>[C:3][H:4].[O:1]=[C:2][C:5]([H:6])([H:7])[O:8][H:9],5.36810879237
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],5.08143758797
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1],4.04538162143
